US08076336B2
1-[3-tert-Butyl-5-(2-fluoroethoxy)phenyl]ethanone ZSI2.060
1-(3-tert-Butyl-5-hydroxyphenyl)ethanone (O3.106; 500 mg) was dissolved in DMF (10 ml), and 1-bromo-2-fluoroethane (195 μl) was added while stirring. Sodium hydride (80 mg) was added at RT. After stirring at RT for 3 h, the mixture was left to stand overnight and then further sodium hydride (20 mg) was added and the mixture was stirred for a further 2 h. Then water was added and the mixture was concentrated to dryness. The residue was taken up in EA and washed three times with water. The EA phase was dried over magnesium sulfate, filtered and concentrated. 600 mg of the title compound were obtained. LC-MS rt: 1.13 min [M+H]+: 239.1 (met. b)

reactant | 1-(3-tert-Butyl-5-hydroxyphenyl)ethanone | 500 mg | C(C)(C)(C)C=1C=C(C=C(C1)O)C(C)=O | C12H16O2
reactant | 1-bromo-2-fluoroethane | 195 μl | BrCCF | C2H4BrF
reactant | Sodium hydride | 80 mg | [H-].[Na+]
reactant | sodium hydride | 20 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-[3-tert-Butyl-5-(2-fluoroethoxy)phenyl]ethanone | 600 mg | C(C)(C)(C)C=1C=C(C=C(C1)OCCF)C(C)=O | C14H19FO2
